Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Solu-Medrol / Penicillins / levofloxacin / yellow dye 
5
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a PMHX of
carcinoid tumor, HTN, HLD, chronic back pain s/p surgery, GERD,
who presents with abdominal pain at ___ found to have
enlarged carcinoid tumor w/ concern for pulmonary metastasis on
CT A/P and transferred to ___ for further care.

Pt was in her USOH until past ___ days when patient noted onset
of ___ diffuse "discomfort" of her abdomen associated with
nausea but no emesis, that worsened with eating. She denies any
fevers, chills, chest pain, dyspnea. She reports feeling
constipated recently but has been passing gas. Denies BRBPR but
pt does have black stools chronically as she is on iron
supplements. She has been afraid to eat because of her fear of
nausea. Given her symptoms she presented to ___ where a
CT A/P was done which revealed spiculated mass at the root of 
the
mesentery concerning for enlarging carcinoid tumor as well as
some pulmonary nodules that required further imaging. She was
then transferred to ___. In regards to her carcinoid, she 
tells
me she has been followed by Dr. ___ ___, and states
that she was told her tumor was the size of a pea. She last got 
a
CT A/P a several years ago. She denies any flushing, diarrhea,
but states she feels warms all the time. Reports having
nightsweats that's been more prominent the last ___ months.
Denies any unintentional weight loss. She has known pulmonary
nodules that were being followed

In the ED, 
Initial VS: 96.8 56 164/78 16 95% RA
Exam notable for large anxious woman. Abd is mildly distended,
diffusely mildly tender without rebound, guarding
Labs notable for WBC 10.3, hgb 12.7. Na 131. Cr 0.8. INR 1.1
Patient given IV Zofran 4mg x3, lorazepam 0.5mg x4, IVF,
gabapentin 400mg, losartan 25mg

Surgery was consulted:
Patient with known carcinoid presents with vague abdominal
discomfort. No acute abdominal pathology identified on current
imaging. Exam is unremarkable. Carcinoid has been followed by 
Dr.
___ at ___, whom patient prefers to see. 
Can PO challenge then dispo per ED. Follow up at ___. 
Please have patient seen by social work. She should have short
term follow-up with her PCP and surgical oncologist. 

MERIT team called ___ and discussed with Dr. ___ accepted
the patient for direct admission to inpatient surgery. However,
there was no bed available at ___ currently. Given unclear 
timing
of when pt would have bed at ___ and inability for patient to
continue boarding in the ED, patient was admitted. 

Upon arrival to the floor, pt reports hx as above. She is very
anxious, and tired of being transported from one place to
another. She is eager to get to ___ and see Dr. ___. She also
notes acute on chronic back pain in which she was recently
prescribed oxycodone.

Per review of Partners records, she was last seen in ___ by
Dr. ___ noted that pt likely has small bowel carcinoid
tumor with nodal metastases to the root of the mesentery and 
that
given the indolent nature of her disease, and significant
operative risk of mesenteric resection and lymphadenectomy in a
morbidly obese woman who is reluctant to have surgery, they
decided to proceed with expectant management. 

ROS: Pertinent positives and negatives as noted in the HPI. 
Other 10 point ROS were negative. 

 
Past Medical History:
HTN
Chronic Back Pain
Carcinoid
HLD
OSA
Back surgery
Appendectomy
Bilateral TKR
 
Social History:
___
Family History:
Father died at ___ from ICH 
 
Physical Exam:
Admission Exam:
================
VITALS: 98.3 147/72 61 18 95% RA
GENERAL: obese woman, very anxious, tearful at times, in NAD
EYES: Anicteric, PERRL
ENT: Ears and nose unremarkable. MMM
CV: RRR. S1, S2. No mrg
RESP: Unlabored breathing. CTA b/l 
GI: +BS. Soft, obese abdomen, mildly tender on palpation in the
upper quadrants. No rebound, guarding.
GU: foley not present
MSK: WWP. Trace edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric. Speech fluent, moves all
limbs.
PSYCH: anxious

Discharge Exam:
=================
VITALS: ___ 0648 Temp: 98.5 PO BP: 165/78 HR: 63 RR: 18 O2
sat: 96% O2 delivery: RA 
General: Anxious obese woman lying in bed
HEENT: Anicteric, eyes conjugate, MMM
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, non-tender, non-distended, bowel sounds 
present, no HSM
MSK: No edema
Skin: No rashes or ulcerations evident
Neurological: Alert, interactive, speech fluent, face symmetric
Psychiatric: pleasant, anxious 
 
Pertinent Results:
Admission labs:
===============
___ 12:15AM BLOOD WBC-10.3* RBC-4.17 Hgb-12.7 Hct-37.7 
MCV-90 MCH-30.5 MCHC-33.7 RDW-13.2 RDWSD-43.4 Plt ___
___ 12:15AM BLOOD Neuts-81.9* Lymphs-9.2* Monos-8.0 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.40* AbsLymp-0.94* 
AbsMono-0.82* AbsEos-0.02* AbsBaso-0.02
___ 12:15AM BLOOD Glucose-124* UreaN-9 Creat-0.8 Na-131* 
K-4.0 Cl-91* HCO3-31 AnGap-9*
___ 07:28AM BLOOD Lactate-1.5

Discharge labs:
================
___ 04:25AM BLOOD WBC-9.8 RBC-3.89* Hgb-12.0 Hct-35.6 
MCV-92 MCH-30.8 MCHC-33.7 RDW-13.2 RDWSD-43.3 Plt ___
___ 04:25AM BLOOD Glucose-125* UreaN-11 Creat-0.8 Na-132* 
K-3.7 Cl-91* HCO3-28 AnGap-13
___ 04:25AM BLOOD ALT-14 AST-13 LD(___)-167 AlkPhos-103 
TotBili-0.3
___ 04:25AM BLOOD Calcium-9.7 Phos-3.8 Mg-1.8 UricAcd-5.8*

Imaging:
==========
CT A/P (___)
1. 3.0 x 2.0 x 1.8 cm spiculated, partially calcified mass at 
the
base of the root of the mesentery with associated tethering of
the surrounding mesentery. Associated with this lesion is a
subtle area of calcification within the inner lumen of the
proximal adjacent small bowel fully described above. Given the
small bowel finding in adjacent calcified soft tissue mass in 
the
mesentery, carcinoid tumor is suspected. Correlation with
laboratory values and CT enterography with IV contrast to assess
for possible small bowel mass at this location be of benefit.
Chronic sclerosing mesenteritis, desmoid tumor, or atypical
metastatic disease/lymphoma is considered less likely.
 
2. Partially imaged parenchymal and pleural-based nodules within
the chest. CT scan of the chest is recommended for further
characterization of these findings, especially in light of the
above lesion within the mesentery, and could be performed
concurrently.

CT A/P ___ at ___
COMPARISON: CT of the abdomen and pelvis with contrast from
___
FINDINGS:
LOWER THORAX: Interval growth of a right lower lobe nodule from 
2
mm to 5 mm (series 2, image 3). Unchanged 4 mm right middle lobe
nodule (series 2, image 11). Unchanged 9 mm nodule in the left
lower lobe (series 2, image 1).
HEPATOBILIARY: There are 2 adjacent 9 mm hypodensities in 
segment
7 of the liver (series 2, image 118 and 117). No other focal
hepatic lesions. No biliary duct dilation. Gallbladder
unremarkable.
SPLEEN: No splenomegaly.
PANCREAS: No focal masses or ductal dilatation.
ADRENALS: No adrenal nodules.
KIDNEYS/URETERS: No hydronephrosis, stones, or solid mass
lesions.
PELVIC ORGANS/BLADDER: Unremarkable.
PERITONEUM / RETROPERITONEUM: Unchanged 2.5 x 1.9 cm spiculated
mesenteric mass with calcification (series 2, image 138).
LYMPH NODES: No lymphadenopathy.
VESSELS: Unremarkable.
GI TRACT: Subtle 8 mm nodule in the terminal ileum may represent
the primary small bowel mass or collapsed bowel.(series 401,
image 51) No distention or wall thickening. Status post
appendectomy.
BONES AND SOFT TISSUES: Degenerative changes of the lumbar 
spine.
IMPRESSION:
Indeterminate liver lesions in segment 7 are not characteristic
for carcinoid metastases but are incompletely evaluated on this
exam. Interval growth of a right lower lobe pulmonary nodule.
Metastatic mesenteric mass is unchanged in size.

RECOMMENDATION: MRI of the abdomen to further characterize the
new liver lesions. Chest CT to evaluate the pulmonary nodules

 
Brief Hospital Course:
Ms. ___ is a ___ female with a PMHX of carcinoid 
tumor, HTN, HLD, chronic back pain s/p surgery, GERD, who 
presented with abdominal pain and nausea for several days at 
___ found to have enlarged carcinoid tumor with concern 
for invasion into small bowel as well as pulmonary nodules 
initially admitted to ___ for care pending transfer to ___ 
where she receives care for her carcinoid tumor. In terms of her 
abdominal pain, she was treated with Tylenol, oxycodone (home 
med) and Zofran with stable pain and nausea and was able to 
tolerate some PO intake on the floor. Consideration for causes 
of her pain and nausea include due to invasion of her small 
bowel by the carcinoid tumor vs gastritis vs PUD vs viral 
process. She would likely benefit from EGD with EUS for 
evaluation of alternative causes of her pain as well as further 
characterization of her tumor. 

Patient was also noted to have both pleural and parenchymal 
based lung nodules that were partially characterized on CT 
abd/pelvis and would benefit from further evaluation with 
dedicated chest CT. 

#Asymptomatic bacteriuria: Found to have pansensitive E.coli on 
UCx at ___ however patient without symptoms of UTI. If 
develops symptoms, would consider treatment. 

#Hyponatremia: Noted to have mild hyponatremia to 132 likely 
hypovolemic related to decreased PO intake. 

CHRONIC ISSUES:
#HTN: continued home losartan, atenolol, chlorthalidone.
#HLD: continued atorvastatin
#Urinary incontinence: fesoterodine, mirabegron not formulary
#GERD: cont home omeprazole
#Chronic back pain
-continued home gabapentin 400mg TID
-continued home oxycodone 10mg PO TID PRN

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. fesoterodine 8 mg oral DAILY 
3. mirabegron 50 mg oral DAILY 
4. Omeprazole 20 mg PO BID 
5. Ranitidine 150 mg PO BID 
6. Cetirizine 10 mg PO DAILY 
7. colestipol 1 gram oral BID 
8. Ascorbic Acid ___ mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Losartan Potassium 25 mg PO DAILY 
11. atenolol-chlorthalidone 50-25 mg oral DAILY 
12. Gabapentin 400 mg PO TID 
13. OxyCODONE (Immediate Release) 10 mg PO Q8H:PRN Pain - 
Moderate 
14. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Ondansetron ___ mg IV Q8H:PRN Nausea/Vomiting - First Line  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  atenolol-chlorthalidone 50-25 mg oral DAILY  
5.  Atorvastatin 20 mg PO QPM  
6.  Cetirizine 10 mg PO DAILY  
7.  colestipol 1 gram oral BID  
8.  fesoterodine 8 mg oral DAILY  
9.  Gabapentin 400 mg PO TID  
10.  Losartan Potassium 25 mg PO DAILY  
11.  mirabegron 50 mg oral DAILY  
12.  Omeprazole 20 mg PO BID  
13.  OxyCODONE (Immediate Release) 10 mg PO Q8H:PRN Pain - 
Moderate  
14.  Ranitidine 150 mg PO BID  
15.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Abdominal pain
Nausea
Carcinoid tumor with invasion into small intestine
Parenchymal and pleural based lung nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with nausea, abdominal 
discomfort and difficulty tolerating food. You underwent a CT 
scan of your abdomen which showed progression of your carcinoid 
tumor with some tumor in the small intestine. You are being 
transferred to ___ now under the recommendation of your surgeon, 
Dr. ___ ongoing ___ of your symptoms and to 
determine if these are caused by your carcinoid tumor. 

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___